US08003785B2
To a solution of 2.2 g (0.0056 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dichloro-propanoic acid methyl ester (IV-298) in 40 mL of acetic acid was added 2.2 g (0.039 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hours and then filtered while hot. Water and ethyl acetate were added to the filtrate and the mixture was stirred for 10 minutes and then filtered. The layers were separated. The organic layer was washed successively with ammonium hydroxide and water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with hexane-ethyl acetate (gradient, 95:5-50:50) gave 0.66 g of 2-chloro-9-cyclopentyl-7,7-dichloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-298).

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2,2-dichloro-propanoic acid methyl ester | 0.0056 mole, 2.2 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(Cl)Cl)=O | C13H15Cl3N4O4
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.2 g | [Fe] | Fe
product | 2-chloro-9-cyclopentyl-7,7-dichloro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.66 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(Cl)Cl)C2CCCC2)N1 | C12H13Cl3N4O
